US04277621
The procedure described in Example (1b) is repeated, except that 233.4 g (1 mol) of 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene, 100 g of 37% hydrochloric acid, 200 ml of water and 69.5 g (1.0 mol) of hydroxylamine hydrochloride are used. Working up and subsequent distillation yields 245 g (0,92 mol) of 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal oxime; yield 92% of theory; boiling point 158°-162° C./4 Pa; nD20 =1.4930.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene | 1 mol, 233.4 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
reactant | hydrochloric acid | 100 g | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.0 mol, 69.5 g | Cl.NO
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal oxime | 0,92 mol, 245 g, yield 92% | CC(C=NO)(CC=CCCC=CCC(N)C(C)C)C | C16H30N2O
